US05403836
A solution of 8-methoxy-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one (10.0 g, 0.052 mol) in N,N-dimethylformamide (30 mL) and allylbromide (23 mL, 0.260 mL) was treated with Nail (60% by wt. dispersion in oil, 2.50 g, 0.063 mol) and the resulting grey suspension stirred at room temperature under an atmosphere of argon. Gas evolution was noted. After 15 minutes, the solution was diluted with brine and partitioned between ethyl acetate and brine. The combined organic layers were concentrated in vacuo and purified by chromatography over silica gel eluting with a gradient of hexane to 1:1 ethyl acetate/hexane to yield 8 g (83%) of 2-allyl-8-methoxy-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one as a colorless oil:

reactant | 8-methoxy-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one | 0.052 mol, 10.0 g | COC1=CC2=C(CCCNC2=O)C=C1 | C11H13NO2
reactant | allylbromide | 23 mL | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-allyl-8-methoxy-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one | 8 g, 83% | C(C=C)N1C(C2=C(CCC1)C=CC(=C2)OC)=O | C14H17NO2
